US08114868B2
1-Cyclopropyl-4-hydroxy-1H-pyridin-2-one
Trifluoroacetic acid (1 mL) was added to a flask charged with a stir bar and 1-cyclopropyl-4-(4-methoxy-benzyloxy)-1H-pyridin-2-one (0.17 g) and chilled in an ice/EtOH bath. The resulting mixture was stirred with cooling for 1.5 h and at ambient temperature for another 4.5 h. Then, the solution was concentrated under reduced pressure and the residue was triturated with tert-butyl methyl ether and dried to give the title compound as a solid. Yield: 0.10 g (quantitative). Mass spectrum (ESI+): m/z=152 [M+H]+.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-cyclopropyl-4-(4-methoxy-benzyloxy)-1H-pyridin-2-one | 0.17 g | C1(CC1)N1C(C=C(C=C1)OCC1=CC=C(C=C1)OC)=O | C16H17NO3
product | 1-Cyclopropyl-4-hydroxy-1H-pyridin-2-one | C1(CC1)N1C(C=C(C=C1)O)=O | C8H9NO2
